US04656269
Hydrogen chloride was passed into a solution of 4.0 g of (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid in 50 ml of isopropyl alcohol with stirring under ice-cooling, and then 100 ml of dry benzene was added to the reaction mixture, and the mixture was heated under reflux for 10 minutes while removing water formed during the reaction using a molecular sieve. The reaction mixture was evaporated to dryness under reduced pressure to obtain 5.7 g of isopropyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride as a white powder.

reactant | Hydrogen chloride | Cl | ClH
reactant | (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoic acid | 4.0 g | N[C@H](C(C(=O)O)O)CC(C)C | C7H15NO3
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | isopropyl (2RS, 3S)-3-amino-2-hydroxy-5-methylhexanoate hydrochloride | 5.7 g | Cl.N[C@H](C(C(=O)OC(C)C)O)CC(C)C | InChI=1S/C10H21NO3.ClH/c1-6(2)5-8(11)9(12)10(13)14-7(3)4;/h6-9,12H,5,11H2,1-4H3;1H/t8-,9?;/m0./s1
